* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4255 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
R1 0 innoise2 3e9 noiseless
R2 innoise1 0 3e9 noiseless
R3 innoise1 innoise2 3e9 noiseless
C1 innoise2 0 4.7p
C2 innoise2 innoise1 11p
C3 0 innoise1 4.7p
R4 0 vilim1 100k noiseless
C4 vilim1 0 0.1p
C5 0 vilim2 0.1p
R5 vilim2 0 100k noiseless
R6 N067 0 1e4 noiseless
R7 0 N082 1e4 noiseless
D1 N094 N102 Dn1
D2 N093 N101 Dn1
H1 N071 N068 V3 300
V1 N094 0 0.65
V2 N093 0 0.65
H2 N067 N068 V4 300
V3 0 N102 0
V4 0 N101 0
D3 N063 N065 Dshort
D4 N065 N062 Dshort
D5 N086 N087 Dshort
D6 N097 N086 Dshort
V11 VDDH-INT P001 2
V12 VDDH-INT N098 2
V13 N063 VSSH-INT 2.75
V14 N097 VSSH-INT 2.75
R16 N065 N067 1m
R17 N086 N082 1m
V15 g11 N070 0
F1 0 g1111 V8 -1
F2 0 g1222 V15 -1
C6 g11 0 5p
E13 VOCM-INT AVSS-INT 7 AVSS-INT 1
R29 7 AVSS-INT 1e9 noiseless
V8 g12 N084 0
D11 N096 N104 Dn2
D12 N095 N103 Dn2
V20 N096 0 0.65
V21 N095 0 0.65
V22 0 N104 0
V23 0 N103 0
E20 VinR1 0 N071 0 0.95
S1 N124 N113 g0 0 SWg
S2 N125 P002 g3 0 SWg
S3 N126 P003 g0 0 SWg
S4 N129 P004 g3 0 SWg
R38 g12 N113 1.9755k noiseless
R41 g12 P002 3.955k noiseless
R42 g12 P003 7.915k noiseless
R43 g12 P004 15.83k noiseless
R44 13 0 10k
R45 12 0 10k
R46 11 0 10k
R47 10 0 10k
R33 g12 P005 31.65k noiseless
R48 g12 N117 63.37k noiseless
R49 g12 N118 126.7k noiseless
R50 g12 N116 253.8k noiseless
R51 g12 N119 508.6k noiseless
R52 g12 N120 1021k noiseless
S5 N138 N124 g1 0 SWg
S6 N150 N138 g3 0 SWg
S7 N137 N125 g1 0 SWg
S8 N139 N126 g3 0 SWg
S9 N123 P005 g0 0 SWg
S10 N140 N123 g1 0 SWg
S11 P006 N140 g2 0 SWg
S12 N130 N117 g1 0 SWg
S13 N142 N130 g2 0 SWg
S14 N131 N118 g0 0 SWg
S15 N143 N131 g2 0 SWg
R53 g12 N121 2057k noiseless
R54 g12 N122 4175k noiseless
S16 N127 N116 g2 0 SWg
S17 N135 N119 g0 0 SWg
S18 N145 N135 g1 0 SWg
S19 N132 N120 g1 0 SWg
S20 N133 N121 g0 0 SWg
v44 vf 0 2.5
S21 g11 N158 vf g2 SWg
S22 N149 N137 vf g0 SWg
S23 g11 P007 vf g2 SWg
S24 N151 N139 vf g1 SWg
S25 g11 P008 vf g2 SWg
S26 g11 P009 vf g2 SWg
S27 N152 N141 vf g1 SWg
S28 N141 N129 vf g0 SWg
S29 g11 N154 vf g3 SWg
S30 P010 N142 vf g0 SWg
S31 g11 N159 vf g3 SWg
S32 P011 N143 vf g1 SWg
S33 g11 P012 vf g3 SWg
S34 N144 N127 vf g0 SWg
S35 N155 N144 vf g1 SWg
S36 g11 N155 vf g3 SWg
S37 N156 N145 vf g2 SWg
S38 g11 N156 vf g3 SWg
S39 N146 N132 vf g0 SWg
S40 N153 N146 vf g2 SWg
S41 g11 N153 vf g3 SWg
S42 N147 N133 vf g1 SWg
S43 N157 N147 vf g2 SWg
S44 g11 N157 vf g3 SWg
S45 N134 N122 vf g0 SWg
S46 N148 N134 vf g1 SWg
S47 N160 N148 vf g2 SWg
S48 g11 N160 vf g3 SWg
R18 15 0 10k
R55 14 0 10k
R56 g1111 N076 128k noiseless
R57 g1111 N077 176k noiseless
R58 g1111 N078 160k noiseless
R59 g1222 N045 128k noiseless
S49 N080 N076 vf g4 SWg
S50 8 N080 vf g5 SWg
S51 8 N077 g4 0 SWg
S53 N081 N078 g5 0 SWg
S54 8 N081 vf g4 SWg
S55 N050 N045 vf g4 SWg
S56 9 N050 vf g5 SWg
S57 9 N046 g4 0 SWg
S59 N051 N047 g5 0 SWg
S60 9 N051 vf g4 SWg
E18 N062 P013 0 n44 -1
R63 P001 P013 1m
E21 N087 P014 0 n44 -1
R69 N098 P014 1m
E24 VinL1 0 N082 0 0.95
R65 n44 0 1k
F7 0 N088 V8 0.5
F8 0 N088 V15 0.5
R83 clip4 0 1k
C21 clip3 0 1µ
D17 N088 clip4 Dclip
D18 clip3 N088 Dclip
R84 clip3 0 1k
C22 clip4 0 1µ
B2 n44 0 V=128*V(clip3)+128*V(clip4)
C7 g12 0 5p
D19 N092 N100 Dcn
D20 N091 N099 Dcn
V34 N092 0 0.65
V35 N091 0 0.65
V36 0 N100 0
V37 0 N099 0
D21 N106 N108 Dcn
D22 N105 N107 Dcn
V38 N106 0 0.65
V39 N105 0 0.65
V40 0 N108 0
V41 0 N107 0
R71 N128 N114 10 noiseless
L5 N115 N114 1µ Rser=0 Rpar=0 Cpar=0
C17 N128 N115 100µ Rser=0 Lser=0 Rpar=0 Cpar=0
R72 N128 0 1.111 noiseless
F9 0 N136 V36 0.70710678
R73 N136 0 1 noiseless
E14 N114 0 N136 0 1
F10 0 N136 V37 -0.70710678
G6 0 innoise1 N128 0 18
R74 N111 N109 10 noiseless
L6 N110 N109 1µ Rser=0 Rpar=0 Cpar=0
C20 N111 N110 50µ Rser=0 Lser=0 Rpar=0 Cpar=0
R75 N111 0 1.111 noiseless
F5 0 N112 V41 0.70710678
R76 N112 0 1 noiseless
E22 N109 0 N112 0 1
F6 0 N112 V40 -0.70710678
G8 0 innoise2 N111 0 18
R23 0 vilim1 100k noiseless
R24 vilim2 0 100k noiseless
C8 0 vilim2 .1p
C9 vilim1 0 0.1p
G4 0 N067 vilim1 0 -1.05e-4
G5 0 N082 vilim2 0 -1.05e-4
C11 VinR 0 500p
R25 VinR 0 100k noiseless
C12 0 VinL 500p
R27 0 VinL 100k noiseless
E12 N069 0 VinR 0 1
E15 N083 0 VinL 0 1
B6 0 VinR I=(LIMIT (-1e-3 * (V(VinR, VinR1)), 400e-6, -400e-6))
B7 0 VinL I=(LIMIT (-1e-3* (V(VinL, VinL1)), 400e-6, -400e-6))
C14 8 g1111 1.9p
R31 g1222 N047 160k noiseless
R32 g1222 N046 176k noiseless
R14 innoise2 1 600
R15 innoise1 2 600
G2 0 vilim1 innoise2 0 2e-5
G3 0 vilim2 innoise1 0 2e-5
R10 N023 REF 2e7 noiseless
R11 REF N039 2e7 noiseless
R19 N023 N039 5e7 noiseless
C10 N023 REF 4e-12
C13 REF N039 4e-12
C16 N023 N039 1e-12
V5 N003 REF 0.65
V6 REF N015 0
D7 N003 N015 DVnoisy
V7 N004 REF 0.65
V9 REF N016 0
D8 N004 N016 DVnoisy
H3 N023 N024 V6 707.10678
H4 N025 N024 V9 707.10678
G7 REF vin-int N025 N039 0.001
R26 vin-int REF 1e8 noiseless
R28 N026 REF 7.962e5 noiseless
C18 N026 REF 1e-7
G9 REF N027 N026 REF 0.001
R30 N027 REF 1000 noiseless
C19 N027 REF 26.528e-12
G10 REF N028 N027 REF 1e-3
R34 N028 REF 1k noiseless
E1 vout-int REF N028 REF 1
R35 N030 N029 3
L10 9 N030 1e-9
C23 9 REF 1e-12
V10 N029 vout-int 0
R40 N041 5 1e-6
R60 N048 6 1e-6
R61 N041 N043 10e6 noiseless
R70 N043 N048 10e6 noiseless
I3 N041 N048 950µ
E2 N044 0 N043 0 1
E3 N042 N044 N041 N044 1
E6 N044 N049 N044 N048 1
B4 REF N026 I=(limit( (V(vin-int, REF))*1.256e-5,.1601,-.1601))
R78 VOCM-INT N023 2
R79 N039 g1222 2
V28 N001 N007 .336
V29 N008 N001 0.536
D29 N007 N019 Dclip
D30 N019 N008 Dclip
B5 vout-int N001 V=-100*I(V10)
R85 N019 N028 1m
R86 N031 REF 2e7 noiseless
R87 REF N040 2e7 noiseless
R88 N031 N040 5e7 noiseless
C24 N031 REF 4e-12
C25 REF N040 4e-12
C26 N031 N040 1e-12
V30 N005 REF 0.65
V31 REF N017 0
D31 N005 N017 DVnoisy
V32 N006 REF 0.65
V33 REF N018 0
D32 N006 N018 DVnoisy
H5 N031 N032 V31 707.10678
H6 N033 N032 V33 707.10678
G12 REF vin-int1 N033 N040 1e-3
R89 vin-int1 REF 1e8 noiseless
R90 N034 REF 7.962e5 noiseless
C27 N034 REF 1e-7
G13 REF N035 N034 REF 0.001
R91 N035 REF 1000 noiseless
C28 N035 REF 26.528e-12
G14 REF N036 N035 REF 1e-3
R92 N036 REF 1k noiseless
E9 vout-int1 REF N036 REF 1
R93 N038 N037 3
L11 8 N038 1e-9
C29 8 REF 1e-12
V42 N037 vout-int1 0
B10 REF N034 I=(limit((V(vin-int1, REF))*1.256e-5,.1601,-.1601))
R102 VOCM-INT N031 2
R103 N040 g1111 2
V52 N002 N009 .336
V53 N010 N002 0.536
D45 N009 N021 Dclip
D46 N021 N010 Dclip
B11 vout-int1 N002 V=-100*I(V42)
R107 N021 N036 1m
C30 9 g1222 1.9p
D15 N022 N013 Dclip
D16 N014 N022 Dclip
V18 N014 AVSS-INT 0.8
V19 AVDD-INT N013 0.8
R12 N022 N026 1m
D25 N020 N011 Dclip
D26 N012 N020 Dclip
V45 AVDD-INT N011 0.8
R13 N020 N034 1m
V46 N012 AVSS-INT 0.8
R80 AVSS-INT N049 1m
R77 REF N044 1m
D9 N064 N053 Dclip
D10 N054 N064 Dclip
V16 AVDD-INT N053 0.7
R81 N064 g1222 1m
V24 N054 AVSS-INT 0.7
D13 N085 N090 Dclip
D14 N089 N085 Dclip
V25 AVDD-INT N090 0.7
R82 N085 g1111 1m
V26 N089 AVSS-INT 0.7
R22 N070 N069 1
R36 N084 N083 1
E4 N058 0 N057 0 4.65
E5 0 N072 N057 0 4.65
E7 N061 0 3 0 1
E8 0 N075 0 4 1
R8 N061 VDDH-INT 1m
R9 N075 VSSH-INT 1m
R20 N055 16 1E-6
R21 N079 0 1E-6
V17 N058 N059 0.9V
V27 N073 N072 1.6V
I1 N055 N079 15mA
D23 N060 3 DCP
D24 4 N074 DCP
E10 N052 0 N055 0 1
S52 N057 N056 N052 0 SWCP
R39 N052 N056 10k noiseless
D27 N056 N066 Dclip
V43 N066 0 5.3
R37 N057 0 100k noiseless
S58 N060 N059 N052 0 SWCP
S61 N074 N073 N052 0 SWCP
R62 N060 0 100k
R64 0 N074 100k
R66 AVDD-INT N042 1m
B1 0 g0 I=V(10)*1m Rpar=1k
B3 0 g1 I=V(11)*1m Rpar=1k
B8 0 g2 I=V(12)*1m Rpar=1k
B9 0 g3 I=V(13)*1m Rpar=1k
B12 0 g4 I=V(14)*1m Rpar=1k
B13 0 g5 I=V(15)*1m Rpar=1k
L1 N150 N158 0.9m
L2 N149 P007 1m
L3 N151 P008 1m
L4 N152 P009 1.5m
L7 P006 N154 0.7m
L8 P010 N159 2m
L9 P011 P012 0.1µ
R67 N055 N079 1Meg
.model Dn1 D(IS=5.26e-14 KF=1.49e-19)
.model Dn2 D(IS=2.47e-12 KF=1.42e-019)
.model Dshort D(Ron = 1  Vfwd = 0.6 )
.model SWg SW(Ron = 1 Vt   = 2V Roff = 1000MEG Ilimit = 100e-3)
.model Dclip D(Rs = 0 Is = 1E-14)
.model Dcn D(IS=1.72e-19  KF= 3.52e-19)
.model DVnoisy D(IS=9.39e-13 KF=1.27e-19)
.model DCP D(Ilimit = 500u, Vfwd = 0)
.model SWCP SW(Ron= 0.0001 Roff=100Meg Vt = 1.9)
.ends ADA4255
